US07968538B2
N-(1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine
A solution of 1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanamine (130 mg, 0.61 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (116 mg, 0.61 mmol) and diisopropylethylamine (314 mg, 2.43 mmol) in N,N-dimethylformamide (2 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The solvent was concentrated in vacuo to collect 53.4 mg of the desired product, which was used for the next reaction without further purification. A solution of N-(1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine (53.4 mg, 0.14 mmol), piperazine (239 mg, 2.76 mmol) and N,N-diisopropylethylamine (0.25 mL, 1.38 mmol) in acetonitrile (2 mL) was stirred at reflux for 16 h. The reaction mixture was cooled down and concentrated under reduced pressure. The residue was taken up in dichloromethane, washed with water, dried and concentrated in vacuo. The crude product was purified by silica chromatography (10% ethyl acetate in hexanes) to yield 50 mg (80%) of desired product. 1H NMR (400 MHz, CDCl3): δ 7.58 (d, 1H), 6.82 (d, 1H), 6.76 (d, 1H), 6.60 (d, 1H), 6.23 (d, 1H), 5.87 (d, 1H), 4.73 (m, 1H), 4.28 (m, 4H), 3.24 (m, 4H), 3.05 (s, 3H), 3.03 (m, 4H), 1.54 (d, 3H); MS (ESI) m/z: 452.3 (M++1).

reactant | 1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanamine | 0.61 mmol, 130 mg | ClC1=CC2=C(OCCO2)C(=C1)C(C)N | C10H12ClNO2
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 0.61 mmol, 116 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 2.43 mmol, 314 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(1-(6-chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 0.14 mmol, 53.4 mg | ClC1=CC2=C(OCCO2)C(=C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C | C17H17ClFNO4S
reactant | piperazine | 2.76 mmol, 239 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 1.38 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-(1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 50 mg, 80% | ClC1=CC2=C(OCCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C21H26ClN3O4S
